US04107307
3-[(2-Benzyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester
A 4.08 gm. portion of 2-benzyl-5-methyl-4-imidazolecarboxaldehyde and 2.29 gm. of ethyl carbazate are reacted as described in Example 32 giving the desired product, m.p. 190°-191.5° C.

reactant | 2-benzyl-5-methyl-4-imidazolecarboxaldehyde | C(C1=CC=CC=C1)C=1NC(=C(N1)C=O)C | C12H12N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-[(2-Benzyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)CC1=CC=CC=C1)=O | C15H18N4O2
